### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Dual/BaseChange): base change of a linear form (on the Module.Dual)

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Base change map for `Module.Dual`.

---

- [x] depends on: #31240

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 1]
```diff
@@ -0,0 +1,202 @@
...
+
+/-- Equivalent modules have equivalent duals. -/
+def congr (e : V ≃ₗ[R] W) :
+    Module.Dual R V ≃ₗ[R] Module.Dual R W :=
+  LinearEquiv.congrLeft R R e
+
+/-- `LinearMap.baseChange` for `Module.Dual`. -/
+def baseChange (f : Module.Dual R V) :
+    Module.Dual A (A ⊗[R] V) :=
+  (AlgebraTensorModule.rid R A A).toLinearMap.comp (LinearMap.baseChange A f)
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: Should we start from the linear map? This will also make `_add`, `_smul`, `_sub`, and `_neg` below unnecessary.
```suggestion
/-- `LinearMap.baseChange` for `Module.Dual`. -/
def baseChange : Module.Dual R V →ₗ[R] Module.Dual A (A ⊗[R] V) :=
  (AlgebraTensorModule.rid R A A).compRight R ∘ₗ LinearMap.baseChangeHom R A V R
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 2]
```diff
@@ -0,0 +1,202 @@
...
+
+section comp
+
+variable (B : Type*) [CommSemiring B] [Algebra R B] [Algebra A B] [IsScalarTower R A B]
+
+theorem baseChange_comp (f : Module.Dual R V) :
+    ((f.baseChange A).baseChange B) =
+      (congr (TensorProduct.AlgebraTensorModule.cancelBaseChange R A B B V)).symm
+       (f.baseChange B) := by
+  ext; simp [congr, congrLeft]
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]:
```suggestion
theorem baseChange_baseChange (f : Module.Dual R V) :
    ((f.baseChange A).baseChange B) =
      (congr (TensorProduct.AlgebraTensorModule.cancelBaseChange R A B B V)).symm
       (f.baseChange B) := by
  ext; simp [congr, congrLeft]
```

Comment (kckennylau) [reply Mathlib/LinearAlgebra/Dual/BaseChange.lean]: Maybe we can also have a version of this lemma on the level of linear maps?

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Dual/BaseChange.lean]: yes!

File: Mathlib/LinearAlgebra/Basis/Defs.lean [hunk 3]
```diff
@@ -537,6 +537,10 @@ theorem constr_apply (f : ι → M') (x : M) :
   simp only [constr_def, LinearMap.comp_apply, lmapDomain_apply, linearCombination_apply]
   rw [Finsupp.sum_mapDomain_index] <;> simp [add_smul]
 
+theorem constr_symm_apply (f : M →ₗ[R] M') (i) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Basis/Defs.lean]: Can this be `simp`?
```suggestion
@[simp] theorem constr_symm_apply (f : M →ₗ[R] M') (i) :
```

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 4]
```diff
@@ -633,6 +633,15 @@ lemma baseChange_comp (g : N →ₗ[R] P) :
...
   ext; simp
 
+lemma baseChange_baseChange {A B : Type*} [CommSemiring A] [Algebra R A]
+    [Semiring B] [Algebra R B] [Algebra A B] [IsScalarTower R A B]
+    (f : M →ₗ[R] N) :
+    ((f.baseChange A).baseChange B) =
+    (AlgebraTensorModule.cancelBaseChange R A B B N).symm ∘ₗ
+      (f.baseChange B) ∘ₗ
+        (AlgebraTensorModule.cancelBaseChange R A B B M) := by
+  aesop
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/TensorProduct/Tower.lean]: Optional style nits:
```suggestion
open AlgebraTensorModule in
lemma baseChange_baseChange {A B : Type*} [CommSemiring A] [Algebra R A]
    [Semiring B] [Algebra R B] [Algebra A B] [IsScalarTower R A B]
    (f : M →ₗ[R] N) :
    (f.baseChange A).baseChange B =
      (cancelBaseChange R A B B N).symm ∘ₗ (f.baseChange B) ∘ₗ (cancelBaseChange R A B B M) := by
  ext; simp
```

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean [hunk 5]
```diff
@@ -122,6 +121,11 @@ theorem linearMapLeftRightHom_apply
     linearMapLeftRightHom j β f p = ((liftBaseChangeEquiv S) (β ∘ₗ f)) (j.equiv.symm p) := by
   rfl
 
+theorem linearMapLeftRightHom_comp_apply
```
Comment (ocfnash) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean]:
```suggestion
@[simp] theorem linearMapLeftRightHom_comp_apply
```

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean [hunk 6]
```diff
@@ -163,14 +167,6 @@ theorem _root_.IsBaseChange.end {α : M →ₗ[R] P} (j : IsBaseChange S α) :
   ext p
   simp [IsBaseChange.equiv_tmul, LinearEquiv.congrLeft, endHom_apply]
 
-theorem « end » {α : M →ₗ[R] P} (j : IsBaseChange S α) :
-    IsBaseChange S (endHom j) := by
-  apply of_equiv <|
-      (j.linearMapRight M).equiv ≪≫ₗ liftBaseChangeEquiv S ≪≫ₗ LinearEquiv.congrLeft P S j.equiv
-  intro f
-  ext p
-  simp [IsBaseChange.equiv_tmul, LinearEquiv.congrLeft, endHom_apply]
```
Comment (ocfnash) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean]: Oh wow, we literally had a lemma name with spaces in it! Good riddance :-)

(I note the correctly-named duplicate directly above.)

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 7]
```diff
@@ -0,0 +1,157 @@
...
+
+## TODO
+
+Generalize for more general modules of linear maps.
+
+-/
+
+@[expose] public section
+
+universe u v
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]:
```suggestion
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 8]
```diff
@@ -0,0 +1,157 @@
...
+
+namespace Module.Dual
+
+open TensorProduct LinearEquiv
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean:33]: I'd rather just write `LinearEquiv.` in the one place where this is currently used
```suggestion
open TensorProduct
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 9]
```diff
@@ -0,0 +1,157 @@
...
+
+variable {R : Type*} [CommSemiring R]
+  {V : Type*} [AddCommMonoid V] [Module R V]
+  {W : Type*} [AddCommMonoid W] [Module R W]
+  (A : Type*) [CommSemiring A] [Algebra R A]
+
+/-- Equivalent modules have equivalent duals. -/
+def congr (e : V ≃ₗ[R] W) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]:
```suggestion
@[simps!] def congr (e : V ≃ₗ[R] W) :
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 10]
```diff
@@ -0,0 +1,157 @@
...
+    f.baseChange A (a ⊗ₜ v) = (f v) • a :=
+  rfl
+
+variable {B : Type*} [CommSemiring B] [Algebra R B] [Algebra A B] [IsScalarTower R A B]
+
+theorem baseChange_baseChange (f : Module.Dual R V) :
+    ((f.baseChange A).baseChange B) =
+      (congr (TensorProduct.AlgebraTensorModule.cancelBaseChange R A B B V)).symm
+       (f.baseChange B) := by
+  ext; simp [congr, congrLeft]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: I suggest that we add `@[simps]` to `LinearEquiv.congrLeft` [here](https://github.com/leanprover-community/mathlib4/blob/7c89bb6086e31db7f332c374f780cac5416ef641/Mathlib/Algebra/Module/Equiv/Basic.lean#L724) and then make the following style tweaks here:
```suggestion
open AlgebraTensorModule in
theorem baseChange_baseChange (f : Module.Dual R V) :
    (f.baseChange A).baseChange B = (congr (cancelBaseChange R A B B V)).symm (f.baseChange B) := by
  ext; simp
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 11]
```diff
@@ -0,0 +1,157 @@
...
+
+theorem toDual_comp_apply (f : Module.Dual R V) (v : V) :
+    ibc.toDual f (j v) = algebraMap R A (f v) := by
+  simp [toDual, Module.Dual.congr, LinearEquiv.congrLeft,
+    IsBaseChange.equiv_symm_apply, Algebra.algebraMap_eq_smul_one]
+
+/-- The base change of an element of the dual. -/
+noncomputable def toDualHom :
+    Module.Dual R V →ₗ[R] Module.Dual A W :=
+  IsBaseChange.linearMapLeftRightHom ibc (Algebra.linearMap R A)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: Do you really need `toDual` and `toDualHom`? Couldn't we just have:
```suggestion
/-- The base change of an element of the dual. -/
noncomputable def toDual :
    Module.Dual R V →ₗ[R] Module.Dual A W :=
  IsBaseChange.linearMapLeftRightHom ibc (Algebra.linearMap R A)

theorem toDual_comp_apply (f : Module.Dual R V) (v : V) :
    ibc.toDual f (j v) = algebraMap R A (f v) := by
 -- adjusted proof

theorem toDual_apply (f : Module.Dual R V) :
    ibc.toDual f = (f.baseChange A).congr ibc.equiv := by
 -- adjusted proof
```
and then just use `toDual` throughout below?

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 12]
```diff
@@ -0,0 +1,157 @@
...
+    ((f.baseChange A).baseChange B) =
+      (congr (TensorProduct.AlgebraTensorModule.cancelBaseChange R A B B V)).symm
+       (f.baseChange B) := by
+  ext; simp [congr, congrLeft]
+
+end Module.Dual
+
+namespace IsBaseChange
+
+open TensorProduct
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: How about:
```suggestion
open Module TensorProduct
```
and then we can just write `Dual R V` instead of `Module.Dual R V` many times below

**Review by ocfnash — COMMENTED** [review]
Thanks, mostly just nitpicks. I expect I'll have a handful more after you've responded to these but this is clearly 99% ready!

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Dual/BaseChange.lean]: That's good, but I was copying existing design in mathlib.

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 13]
```diff
@@ -0,0 +1,146 @@
...
+    f.baseChange A (a ⊗ₜ v) = (f v) • a :=
+  rfl
+
+variable {B : Type*} [CommSemiring B] [Algebra R B] [Algebra A B] [IsScalarTower R A B]
+
+open AlgebraTensorModule in
+theorem baseChange_baseChange (f : Module.Dual R V) :
+    ((f.baseChange A).baseChange B) =
+      (congr (cancelBaseChange R A B B V)).symm (f.baseChange B) := by
+  ext; simp [congr, congrLeft]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]:
```suggestion
  ext; simp
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 14]
```diff
@@ -0,0 +1,146 @@
...
+open TensorProduct LinearEquiv
+
+variable {R : Type*} [CommSemiring R]
+  {V : Type*} [AddCommMonoid V] [Module R V]
+  {W : Type*} [AddCommMonoid W] [Module R W]
+  (A : Type*) [CommSemiring A] [Algebra R A]
+
+/-- Equivalent modules have equivalent duals. -/
+@[simps!] def congr (e : V ≃ₗ[R] W) :
+    Module.Dual R V ≃ₗ[R] Module.Dual R W :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]:
```suggestion
    Dual R V ≃ₗ[R] Dual R W :=
```
and likewise for many more throughout the file!

File: Mathlib/Algebra/DirectSum/Module.lean [hunk 15]
```diff
@@ -553,34 +553,34 @@ variable {R : Type*} [Semiring R]
     {P : ι → Type*} [∀ i, AddCommMonoid (P i)] [∀ i, Module R (P i)]
 
 /-- Direct sums of isomorphic additive groups are isomorphic. -/
-def congr_addEquiv (u : (i : ι) → N i ≃+ P i) :
+def congrAddEquiv (u : (i : ι) → N i ≃+ P i) :
```
Comment (ocfnash) [inline Mathlib/Algebra/DirectSum/Module.lean:556]: Can you add the deprecations for this rename to make it easier for downstream users? It should just be a matter of navigating to the root folder of Mathlib in a terminal and typing:
```shell
./scripts/add_deprecations.sh 
```
and committing the changes.

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean]: Did you try making this `simp`?

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 16]
```diff
@@ -0,0 +1,146 @@
...
+
+* `Module.Dual.baseChangeHom` is the `R`-linear map
+given by `Module.Dual.baseChange`.
+
+* `IsBaseChange.dual` : for finite free modules, taking dual commutes with base change.
+
+## TODO
+
+Generalize for more general modules of linear maps.
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: I'm not sure what you have in mind here. Could you either be more specific or just drop this section?

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 17]
```diff
@@ -0,0 +1,146 @@
...
+theorem baseChange_apply_tmul (f : Module.Dual R V) (a : A) (v : V) :
+    f.baseChange A (a ⊗ₜ v) = (f v) • a :=
+  rfl
+
+variable {B : Type*} [CommSemiring B] [Algebra R B] [Algebra A B] [IsScalarTower R A B]
+
+open AlgebraTensorModule in
+theorem baseChange_baseChange (f : Module.Dual R V) :
+    ((f.baseChange A).baseChange B) =
+      (congr (cancelBaseChange R A B B V)).symm (f.baseChange B) := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: Optional style nit:
```suggestion
    (f.baseChange A).baseChange B = (congr (cancelBaseChange R A B B V)).symm (f.baseChange B) := by
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean (hunk 13 above)
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: Now that you've added other `simp` lemmas this can be just:
```suggestion
  ext; simp
```
(which is `ε` more maintainable)

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 18]
```diff
@@ -0,0 +1,146 @@
...
+    map_add' a b := by simp [add_smul]
+    map_smul' r a := by simp }).toAddHom
+  map_smul' a g := by
+    induction g using TensorProduct.induction_on with
+    | zero => simp
+    | add x y hx hy =>
+      simp only [AddHom.toFun_eq_coe, LinearMap.coe_toAddHom, RingHom.id_apply] at hx hy
+      simp [map_add, hx, hy]
+    | tmul b f =>
+      simp [TensorProduct.smul_tmul', mul_smul]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: Optional style nit:
```suggestion
    | add x y hx hy => aesop
    | tmul b f => simp [smul_tmul', mul_smul]
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 19]
```diff
@@ -0,0 +1,146 @@
...
+  simp [toDual, linearMapLeftRightHom_comp_apply]
+
+theorem toDual_apply (f : Module.Dual R V) :
+    ibc.toDual f = (f.baseChange A).congr ibc.equiv := by
+  apply ibc.algHom_ext
+  intro v
+  simp [toDual_comp_apply, Algebra.algebraMap_eq_smul_one]
+
+/-- The linear map underlying `IsBaseChange.toDualBaseChangeLinearEquiv`. -/
+noncomputable def toDualBaseChange :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: Once the equivalence is defined, the user should never need this so I propose:
```suggestion
/-- The linear map underlying `IsBaseChange.toDualBaseChangeLinearEquiv`. -/
private noncomputable def toDualBaseChangeAux :
```
and then name the linear equiv just `toDualBaseChange`.

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 20]
```diff
@@ -0,0 +1,146 @@
...
+      simp [TensorProduct.smul_tmul', mul_smul]
+
+theorem toDualBaseChange_tmul (a : A) (f : Dual R V) (v : V) :
+    (ibc.toDualBaseChange (a ⊗ₜ[R] f)) (j v) = a * algebraMap R A (f v) := by
+  simp [toDualBaseChange, toDual_comp_apply]
+
+variable [Free R V] [Module.Finite R V]
+
+/-- The linear equivalence underlying `IsBaseChange.dual`. -/
+noncomputable def toDualBaseChangeLinearEquiv :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: If you rename the `def` above to have the `Aux` suffix then this can be just:
```suggestion
noncomputable def toDualBaseChange :
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 21]
```diff
@@ -0,0 +1,146 @@
...
+    A ⊗[R] Dual R V ≃ₗ[A] Dual A W := by
+  apply LinearEquiv.ofBijective ibc.toDualBaseChange
+  let b := Free.chooseBasis R V
+  set ι := Free.ChooseBasisIndex R V
+  have : Fintype ι := Free.ChooseBasisIndex.fintype R V
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]: This is already an instance so no need to manually set it up:
```suggestion
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 22]
```diff
@@ -0,0 +1,146 @@
...
+  | zero => simp
+  | tmul v =>
+    simp only [toDualBaseChange_tmul, one_mul]
+    conv_lhs => rw [← Basis.sum_equivFun b v, map_sum]
+    simp [LinearEquiv.baseChange, IsBaseChange.equiv_tmul,
+      basis_repr_comp_apply, b.constr_symm_apply]
+  | smul a w h => simp [h]
+  | add x y hx hy => simp [map_add, hx, hy]
+
+theorem dual : IsBaseChange A (ibc.toDual) := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean:132]:
```suggestion
theorem isBaseChange_toDual : IsBaseChange A (ibc.toDual) := by
```

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean [hunk 23]
```diff
@@ -0,0 +1,146 @@
...
+  apply LinearEquiv.ofBijective ibc.toDualBaseChange
+  let b := Free.chooseBasis R V
+  set ι := Free.ChooseBasisIndex R V
+  have : Fintype ι := Free.ChooseBasisIndex.fintype R V
+  have ibc' : IsBaseChange A (Algebra.linearMap R A) := linearMap R A
+  have ibc'_pow := ibc'.finitePow ι
+  suffices ibc.toDualBaseChange = (((b.constr R).symm.baseChange ..).trans ibc'_pow.equiv).trans
+    ((ibc.basis b).constr A) by
+    rw [this]
+    apply LinearEquiv.bijective
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Dual/BaseChange.lean]:
```suggestion
  have ibc_pow : IsBaseChange A ((Algebra.linearMap R A).compLeft ι) := (linearMap R A).finitePow ι
  suffices ibc.toDualBaseChangeAux =
      (((b.constr R).symm.baseChange ..).trans ibc_pow.equiv).trans ((ibc.basis b).constr A) from
    this ▸ LinearEquiv.bijective _
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean (hunk 16 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Dual/BaseChange.lean]: The generalization has been made in `IsBaseChangeHom`.

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Dual/BaseChange.lean]: I felt I had to rename `toDualBaseChange_tmul` to `toDualBaseChangeAux_tmul` and make a new version that uses `toDualBaseChangeLinearEquiv` (now called `toDualBaseChange`).

File: Mathlib/LinearAlgebra/Dual/BaseChange.lean (hunk 22 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/Dual/BaseChange.lean:132]: I did it, but is it necessary when the namespace is already `IsBaseChange`?

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Dual/BaseChange.lean:132]: Oh sorry, I was indeed forgetting the namespace. Feel free to revert to what you had.

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean]: Presently trying, sorry to have left this out.
